US07297704B2
C-(6-Chloro-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-methylamine
6-Chloro-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid amide (0.6 g, 2.42 mmole) was dissolved in THF (20 ml). The reaction was cooled to 0° C. Lithium aluminum hydride (4.8 ml, 1M, 4.8 mmole) was portion wise carefully added. The reaction was refluxed for 2 hours. After cooling the mixture to room temperature water was carefully drop wise added to deactivate the Li—Al-complex. The formed solids were filtered and the filtrate diluted with ethyl acetate, washed with water (2×), brine and the separated organic layer dried over magnesium sulfate, filtered and evaporated in vacuo. The product was crystallized from ethyl acetate/hexane, 80:20. A white solid was obtained, 0.293 g, 52% yield. mp. 142-144° C. MS: ES [M−H]− 233.1.

reactant | 6-Chloro-2,3,4,9-tetrahydro-1H-carbazole-3-carboxylic acid amide | 2.42 mmole, 0.6 g | ClC=1C=C2C=3CC(CCC3NC2=CC1)C(=O)N | C13H13ClN2O
reactant | Lithium aluminum hydride | 4.8 mmole, 1M, 4.8 ml | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | C-(6-Chloro-2,3,4,9-tetrahydro-1H-carbazol-3-yl)-methylamine | 52% yield | ClC=1C=C2C=3CC(CCC3NC2=CC1)CN | C13H15ClN2
